US05231184
To a stirred and cooled solution of 6.7 parts of 1-(6-methoxy-3-pyridazinyl)-4-piperidinemethanol, 5 parts of ethyl 4-hydroxybenzoate and 7.8 parts of triphenylposphine in 135 of tetrahydrofuran was added a solution of 5.6 parts of diethyl diazenediacarboxylate in 45 parts of tetrahydrofuran. Upon complete addition, stirring was continued overnight at room temperature. After evaporation, the residue was taken up in water and the product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and ethanol (99.5:0.5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 2-propanol. The product was filtered off and dried, yielding 6.7 parts (60.1%) of ethyl 4-[[1-(6-methoxy-3-pyridazinyl)-4-piperidinyl]methoxy]benzoate; mp. 147.2° C. (comp. 142).

reactant | 1-(6-methoxy-3-pyridazinyl)-4-piperidinemethanol | COC1=CC=C(N=N1)N1CCC(CC1)CO | C11H17N3O2
reactant | ethyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | ethyl 4-[[1-(6-methoxy-3-pyridazinyl)-4-piperidinyl]methoxy]benzoate | 60.1% | COC1=CC=C(N=N1)N1CCC(CC1)COC1=CC=C(C(=O)OCC)C=C1 | C20H25N3O4
